US06197975B1
Step 3.2B {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl]carbamic acid tert-butyl ester
To a solution of {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid tert-butyl ester (300 mg in 7 mL methylene chloride) at 0° C. was added 0.135 mL triethylamine and 0.066 mL methanesulfonyl chloride and the mixture sired at low temperature. After 30 minutes, the reaction was quenched by the addition of saturated aqueous sodium bicarbonate and partitioned between water and ethyl acetate. The organic portion was washed successively with saturated ammonium chloride, saturated sodium bicarbonate and brine, then dried over sodium sulfate and concentrated in vacuo to give the crude title compound (330 mg).

reactant | {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid tert-butyl ester | 7 mL, 300 mg | C(C)(C)(C)OC(N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=CC(=C1)C)C)=O | C34H42N4O6S
reactant | methanesulfonyl chloride | 0.066 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 0.135 mL | C(C)N(CC)CC | C6H15N
product | {2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl]carbamic acid tert-butyl ester | 330 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=CC(=C1)C)C)=O | C35H44N4O8S2
